US04174405
A solution of 34 g (0.179 mole) of 2-p-anisylthiophene in 500 ml of carbon tetrachloride was treated with 23 ml (28.5 g, 0.197 mole) of benzenesulfenyl chloride and 0.1 g of iron powder. The mixture was allowed to stand at room temperature for eight days. The mixture was filtered to remove a small amount of solid. The filtrate was evaporated to give 67 g of crude solid product. Recrystallization from 220 ml of ethyl acetate gave 15.4 g (29%) of 2-p-anisyl-5-(phenylthio)thiophene, m.p. 92°-93° C.

reactant | 2-p-anisylthiophene | 0.179 mole, 34 g | C(C1=CC=C(C=C1)OC)C=1SC=CC1 | C12H12OS
reactant | benzenesulfenyl chloride | 0.197 mole, 23 ml, 28.5 g | C1(=CC=CC=C1)SCl | C6H5ClS
solvent | carbon tetrachloride | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | iron | 0.1 g | [Fe] | Fe
product | 2-p-anisyl-5-(phenylthio)thiophene | 15.4 g, 29% | C(C1=CC=C(C=C1)OC)C=1SC(=CC1)SC1=CC=CC=C1 | C18H16OS2
